### PR TITLE
feat(LTS, Bisimulation): refactor LTS classes (Deterministic, etc.) into typeclasses and make grind theorems scoped

### PR DESCRIPTION
**Pull request by fmontesi**
As discussed on Zulip. The Lean class resolutor has been pretty pleasant to work with.

### CODE REVIEW

File: Cslib/Foundations/Semantics/LTS/Basic.lean [hunk 1]
```diff
@@ -265,102 +268,106 @@ variable {State : Type u} {Label : Type v} (lts : LTS State Label)
...
+
+@[scoped grind _=_]
+theorem LTS.deterministic_tr_image_singleton [lts.Deterministic] :
+    lts.image s μ = {s'} ↔ lts.Tr s μ s' := by
+  apply Iff.intro
+  case mp =>
+    intro h
+    apply Set.eq_singleton_iff_unique_mem.1 at h
+    grind
+  case mpr => grind
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Basic.lean]:
```suggestion
  have := (lts.image s μ).eq_singleton_iff_unique_mem (a := s')
  grind
```

File: Cslib/Foundations/Semantics/LTS/Basic.lean [hunk 2]
```diff
@@ -379,40 +386,43 @@ def LTS.outgoingLabels (s : State) := { μ | lts.HasOutLabel s μ }
...
-  lts.ImageFinite ∧ ∀ s, Finite (lts.outgoingLabels s)
+class LTS.FinitelyBranching (lts : LTS State Label) extends lts.ImageFinite where
+  finite_outgoing_labels (s : State) : Finite (lts.outgoingLabels s)
 
-/-- An LTS is finite-state if it has a finite `State` type. -/
-@[nolint unusedArguments]
-def LTS.FiniteState (_ : LTS State Label) : Prop := Finite State
+/- An LTS is finite-state if it has a finite `State` type. -/
+-- @[nolint unusedArguments]
+-- def LTS.FiniteState (_ : LTS State Label) : Prop := Finite State
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Basic.lean]: Remove commented code?

File: Cslib/Foundations/Semantics/LTS/Basic.lean [hunk 3]
```diff
@@ -545,12 +560,13 @@ theorem LTS.STr.comp
   have concN := LTS.STrN.comp lts h1N h2N h3N
   apply (LTS.sTr_sTrN lts).2 ⟨n1 + n2 + n3, concN⟩
 
-@[grind _=_]
-lemma LTS.saturate_tr_sTr [HasTau Label] (lts : LTS State Label) :
-  lts.saturate.Tr s HasTau.τ = lts.STr s HasTau.τ := by simp [LTS.saturate]
+-- @[scoped grind _=_]
+-- lemma LTS.saturate_tr_tau_sTr [HasTau Label] (lts : LTS State Label) :
+--   lts.saturate.Tr s HasTau.τ = lts.STr s HasTau.τ := by simp [LTS.saturate]
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Basic.lean]: More commented code

File: Cslib/Foundations/Semantics/LTS/Bisimulation.lean [hunk 4]
```diff
@@ -87,7 +87,7 @@ def LTS.IsBisimulation (lts : LTS State Label) (r : State → State → Prop) :
   )
 
 /- Semi-bundled version of `LTS.IsBisimulation`. -/
--- @[grind ext]
+-- @[scoped grind ext]
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Bisimulation.lean]: I see here a change to something already commented out, so maybe intentional? I don't think we should allow this in general though, too much opportunity for things to get cluttered.

File: Cslib/Foundations/Semantics/LTS/Bisimulation.lean [hunk 5]
```diff
@@ -727,37 +731,38 @@ theorem Bisimulation.deterministic_traceEq_is_bisim
...
 
+open LTS in
 /-- A relation is a bisimulation iff both it and its inverse are simulations. -/
-theorem Bisimulation.simulation_iff (lts : LTS State Label) (r : State → State → Prop) :
-  lts.IsBisimulation r ↔ (Simulation lts r ∧ Simulation lts (flip r)) := by
+theorem Bisimulation.simulation_iff {lts : LTS State Label} {r : State → State → Prop} :
+    lts.IsBisimulation r ↔ (Simulation lts r ∧ Simulation lts (flip r)) := by
   constructor
   case mp => grind [Simulation, flip]
   case mpr => aesop (add simp [LTS.IsBisimulation])
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Bisimulation.lean]: If you would like to refactor this `aesop` as you did above, you can more compactly write:
```suggestion
  have _ (s1 s2) : r s1 s2 → flip r s2 s1 := id
  grind [Simulation, flip]
```

File: Cslib/Foundations/Semantics/LTS/Basic.lean [hunk 6]
```diff
@@ -265,102 +268,106 @@ variable {State : Type u} {Label : Type v} (lts : LTS State Label)
...
-  exact LTS.mem_setImageMultistep lts
+  exact LTS.mem_setImageMultistep
 
 /-- An lts is image-finite if all images of its states are finite. -/
-@[grind]
-def LTS.ImageFinite : Prop :=
-  ∀ s μ, Finite (lts.image s μ)
+@[scoped grind]
+class LTS.ImageFinite where
+  image_finite (s : State) (μ : Label) : Finite (lts.image s μ)
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Basic.lean]: Here and for `LTS.FinitelyBranching` I think we need to discuss the bundling of `Finite` again, as we did with automata. This especially sticks out to me because you did write `LTS.FiniteLTS` unbundled.

What I would have written here is
```lean
class LTS.ImageFinite [∀ s μ, Finite (lts.image s μ)]
```

Then you have for example the instance
```lean
instance [lts.Deterministic] (s : State) (μ : Label) : Finite (lts.image s μ) := ...
```
with the same proof you've already done and the named instance becomes just
```lean
instance LTS.deterministic_imageFinite [lts.Deterministic] : lts.ImageFinite where
```
because it is completely inferred. 

(If we will discuss this at more length, probably best to move to Zulip where it's more visible to others)

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Foundations/Semantics/LTS/Basic.lean (hunk 6 above)
Comment (fmontesi) [reply Cslib/Foundations/Semantics/LTS/Basic.lean]: Ah, well spotted, thanks. I simply tried to be uniform, but indeed it might make sense to treat Finite like that... How about what I have now?

**Comment by fmontesi** [comment]
All done, thanks! (See my comment for the typeclass thing.)
